US07087626B2
4-(5-Oxo-tetrahydro-furan-3-yl)-benzoic acid ethyl ester
To a solution of 75% 3-chloroperbenzoic acid (2.7 g, 11.76 mmol) in dichloromethane (35 mL) is added magnesium sulfate (2.0 g, 16.6 mmol) and the mixture stirred for 30 min. Solids are removed by filtration and the filtrate treated with borontrifluoride etherate (0.5 mL, 3.92 mmol) and 4-(5-methoxy-tetrahydro-furan-3-yl)-benzoic acid ethyl ester (2.45 g, 9.8 mmol) in dichloromethane (5 mL). The mixture is stirred at room temperature 18 h, diluted with ether (200 mL) and washed with a 10% solution of sodium thiosulfite (150 mL), a saturated solution of sodium bicarbonate (150 mL) and brine. The mixture is dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is chromatographed on SiO2 (elute with 20% ethyl acetate/hexanes) to yield the title compound, 2.2 g (96%), as an off-white solid.

reactant | 3-chloroperbenzoic acid | 11.76 mmol, 2.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | magnesium sulfate | 16.6 mmol, 2.0 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | borontrifluoride etherate | 3.92 mmol, 0.5 mL | B(F)(F)F.CCOCC
reactant | 4-(5-methoxy-tetrahydro-furan-3-yl)-benzoic acid ethyl ester | 9.8 mmol, 2.45 g | C(C)OC(C1=CC=C(C=C1)C1COC(C1)OC)=O | C14H18O4
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ether | 200 mL | CCOCC | C4H10O
product | 4-(5-Oxo-tetrahydro-furan-3-yl)-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1COC(C1)=O)=O | C13H14O4
